### PR TITLE
[Merged by Bors] - feat(Algebra/QuadraticAlgebra): algebra homomorphisms between quadratic algebras

### PR DESCRIPTION
**Pull request by xroblot**
An `R`-algebra homomorphism `f : QuadraticAlgebra R a b →ₐ[R] QuadraticAlgebra R a' b'` is determined by the image of `ω`, and its determinant `(f ω).im` decides everything: `f` is injective if and only if `(f ω).im` is regular, bijective if and only if it is a unit, and an injective `f` preserves the trace, the conjugation and the norm.

Prepared with Claude Code 🤖

### CODE REVIEW

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 1]
```diff
@@ -82,6 +82,10 @@ theorem omega_mul_omega_eq_algebraMap :
     (ω : QuadraticAlgebra R a b) * ω = algebraMap R _ a + algebraMap R _ b * ω := by
   simp [omega_mul_omega_eq_add, Algebra.algebraMap_eq_smul_one]
 
+@[simp]
+theorem basis_apply_one : (basis a b) 1 = ω := by
```
Comment (SnirBroshi) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean]:
```suggestion
theorem basis_apply_one : basis a b 1 = ω := by
```

File: Mathlib/Algebra/QuadraticAlgebra/Defs.lean [hunk 2]
```diff
@@ -382,6 +382,10 @@ noncomputable def basis : Module.Basis (Fin 2) R (QuadraticAlgebra R a b) :=
 theorem basis_repr_apply (x : QuadraticAlgebra R a b) :
     (basis a b).repr x = ![x.re, x.im] := rfl
 
+@[simp]
+theorem basis_apply_zero : (basis a b) 0 = 1 := by
```
Comment (SnirBroshi) [inline Mathlib/Algebra/QuadraticAlgebra/Defs.lean]:
```suggestion
theorem basis_apply_zero : basis a b 0 = 1 := by
```

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+namespace QuadraticAlgebra
+
+variable {R : Type*} [CommRing R] {a b a' b' : R}
+  (f : QuadraticAlgebra R a b →ₐ[R] QuadraticAlgebra R a' b')
+
+private theorem smul_omega_sub_eq :
+    (trace (f ω) - b) • f ω = algebraMap R _ (norm (f ω)) + a • 1 := by
+  rw [sub_smul, ← sub_neg_eq_add, sub_eq_sub_iff_sub_eq_sub, ← sq_eq_trace_smul_sub_norm,
+    sub_neg_eq_add, ← map_pow, sq, omega_mul_omega_eq_add, map_add, map_smul, map_smul, map_one,
+    add_comm]
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: instead of grind through the square and mul self I think we should probably add
```
lemma omega_pow_two_eq_add.{u_2} {R : Type u_2} {a b : R} [CommSemiring R] : 
    ω ^ 2 = a • (1 : QuadraticAlgebra R a b) + b • ω := by 
  rw [sq , omega_mul_omega_eq_add]
```
and then the proof could be
```
private theorem smul_omega_sub_eq :
    (trace (f ω) - b) • f ω = algebraMap R _ (norm (f ω)) + a • 1 := by
  rw [sub_smul, ← sub_neg_eq_add, sub_eq_sub_iff_sub_eq_sub, ← sq_eq_trace_smul_sub_norm]
  grind [omega_pow_two_eq_add, map_smul, _=_ map_pow]
```

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean [hunk 4]
```diff
@@ -0,0 +1,122 @@
...
+    (f.toLinearMap.toMatrix (basis a b) (basis a' b')).det = (f ω).im := by
+  simp [toMatrix_algHom, Matrix.det_fin_two]
+
+/-- An algebra homomorphism `f` between quadratic algebras is injective exactly when `(f ω).im` is
+regular, that being the determinant of `f` in the bases `1, ω`, see `det_toMatrix_algHom`. -/
+theorem isRegular_im_omega_iff_injective :
+    IsRegular (f ω).im ↔ Function.Injective f := by
+  have h : (f.toLinearMap.toMatrix (basis a b) (basis a' b')).mulVec ∘ (basis a b).equivFun =
+      (basis a' b').equivFun ∘ f :=
+    funext fun x ↦ LinearMap.toMatrix_mulVec_repr (basis a b) (basis a' b') f.toLinearMap x
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: maybe this `h` is worthy of extracted as a separate (maybe private) lemma since it appears more than once?

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+  rw [← det_toMatrix_algHom, isRegular_iff_mem_nonZeroDivisors,
+    ← Matrix.nonsingular_iff_det_mem_nonZeroDivisors, ← Matrix.isLeftRegular_iff_nonsingular,
+    Matrix.isLeftRegular_iff_mulVec_injective,
+    ← Function.Injective.of_comp_iff' _ (basis a b).equivFun.bijective,
+    ← (basis a' b').equivFun.injective.of_comp_iff, h]
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: Also (completely optional) this proof works:
```
  rw [isRegular_iff_mem_nonZeroDivisors, mem_nonZeroDivisors_iff_right, injective_iff_map_eq_zero]
  refine ⟨fun h ⟨u, v⟩ hx ↦ ?_, fun h c hc ↦ congr_arg im (h ⟨-(c * (f ω).re), c⟩ ?_)⟩ <;>
    simp_all [mk_eq_add_smul_omega, QuadraticAlgebra.ext_iff]; grind
```

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+/-- An algebra homomorphism `f` between quadratic algebras is bijective exactly when `(f ω).im` is
+a unit, the injective case being `isRegular_im_omega_iff_injective`. -/
+theorem isUnit_im_omega_iff_bijective :
+    IsUnit (f ω).im ↔ Function.Bijective f := by
+  suffices Function.Surjective f ↔ IsUnit (f ω).im by
+    rw [Function.Bijective, ← isRegular_im_omega_iff_injective, this, iff_and_self]
+    exact fun h ↦ IsUnit.isRegular h
+  have h : (f.toLinearMap.toMatrix (basis a b) (basis a' b')).mulVec ∘ (basis a b).equivFun =
+      (basis a' b').equivFun ∘ f :=
+    funext fun x ↦ LinearMap.toMatrix_mulVec_repr (basis a b) (basis a' b') f.toLinearMap x
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: same here

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: Yes, that's a good idea. This lemma should be in Mathlib

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: Good point. Done

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: I tried but it slower (probably the grind?) so I'd rather keep the original version.

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]: Thanks for the review!

File: Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean [hunk 7]
```diff
@@ -0,0 +1,118 @@
...
+public import Mathlib.LinearAlgebra.Matrix.NonsingularInverse
+
+/-!
+# Algebra maps between quadratic algebras
+
+An `R`-algebra homomorphism `f : QuadraticAlgebra R a b →ₐ[R] QuadraticAlgebra R a' b'` is
+determined by the image of `ω`, and its matrix in the bases `1, ω` is
+`!![1, (f ω).re; 0, (f ω).im]`. Its determinant `(f ω).im` governs everything: `f` is injective
+exactly when `(f ω).im` is regular, bijective exactly when it is a unit, and an injective
+`f` preserves the trace, the conjugation and the norm.
```
Comment (jcommelin) [inline Mathlib/Algebra/QuadraticAlgebra/AlgHom.lean]:
```suggestion
`!![1, (f ω).re; 0, (f ω).im]`. Further more `f` is injective
exactly when `(f ω).im` is regular, bijective exactly when it is a unit. Finally, an injective
`f` preserves the trace, the conjugation and the norm.
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
